US05171835
Reacting Preparation VIa with 2,4-bis-benzoyl-diaminobutyric acid (Preparation Ib) with 2,4-bis-cyclohexanoyl-diaminobutyric acid (Preparation IIb) or with 2,4-bis-lauroyl-diaminobutyric acid resulted respectively in peptides Ac-D-Nal(2)-D-Phe(4Cl)-D-Pal(3)-Ser-Tyr-D-Lys[DL-A2 bu(Bz)2 ]-Leu-Arg-Pro-D-Ala-NH2 (20) (16.6 mg), Ac-D-Nal(2)-D-Phe(4Cl)-D-Pal(3)-Ser-Tyr-D-Lys[DL-A2 bu(CHC)2 ]-Leu-Arg-Pro-D-Ala-NH2 (21) (14.7 mg) and Ac-D-Nal(2)-D-Phe(4Cl)-D-Pal(3)-Ser-Tyr-D-Lys[DL-A2 bu(LAU)2 ]-Leu-Arg-Pro-D-Ala-NH2 (19) (8 mg), respectively.

reactant | 2,4-bis-benzoyl-diaminobutyric acid | C(C1=CC=CC=C1)(=O)C(C(=O)O)(C(CC(C1=CC=CC=C1)=O)N)N | C18H18N2O4
reactant | 2,4-bis-cyclohexanoyl-diaminobutyric acid | C1(CCCCC1)C(=O)C(C(=O)O)(C(CC(=O)C1CCCCC1)N)N | C18H30N2O4
product | 2,4-bis-lauroyl-diaminobutyric acid | C(CCCCCCCCCCC)(=O)C(C(=O)O)(C(CC(CCCCCCCCCCC)=O)N)N | C28H54N2O4
